US07220856B2
Preparation of 2-n-Butylamino-7-chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline
4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-2-(n-butylamino)-7-chloroquinoline (47 mg, 0.11 mmol) is deprotected with TFA in CH2Cl2 and transformed into the title product according to method C using 4-fluorophenyl isocyanate (18 μL, 0.16 mmol) and triethylamine (110 μL, 0.79 mmol) to give a colorless solid.

reactant | 4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-2-(n-butylamino)-7-chloroquinoline | 0.11 mmol, 47 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=NC2=CC(=CC=C12)Cl)NCCCC | C22H31ClN4O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-n-Butylamino-7-chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline | C(CCC)NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)F)Cl | C24H27ClFN5O
